US08497381B2
Step 3: [2″-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4″-trifluoromethyl-[1,1′;2′,1″]terphenyl-4′-yl]-acetic acid
[2′-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-6-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester (0.100 g, 0.16 mmol), phenylboronic acid (0.029 g, 0.24 mmol), potassium carbonate (0.055 g, 0.40 mmol), and tetrakis(triphenylphosphine)palladium (0) (0.018 g, 0.02 mmol) were combined in DME (2 mL) and H2O (1 mL), and the mixture was purged with N2 for 10 minutes. The reaction was stirred at 90° C. for 5 hours, until no starting material was seen by analytical LCMS. The pH was adjusted to pH 7 with saturated aqueous NH4Cl, and the mixture was extracted with EtOAc. The crude material was purified by silica gel chromatography to give the title compound. M+H is 546.

reactant | [2′-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-6-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | 0.16 mmol, 0.100 g | COC(CC=1C=C(C(=CC1)OS(=O)(=O)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C28H23F6NO7S
reactant | phenylboronic acid | 0.24 mmol, 0.029 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 0.40 mmol, 0.055 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 2 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.02 mmol, 0.018 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [2″-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4″-trifluoromethyl-[1,1′;2′,1″]terphenyl-4′-yl]-acetic acid | C[C@@H]1N(C(O[C@@H]1C1=CC=CC=C1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C(=CC=C(C1)CC(=O)O)C1=CC=CC=C1 | C32H26F3NO4
